US07781436B2
4-(2-Trifluoromethoxy-phenyl)-piperidine
To a solution of 1-benzyl-4-(2-trifluoromethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine (described herein below) in EtOH was added (0.2 wt %) 10% Pd/C, followed by (5 eq.) TFA in a sealed tube. The reaction mixture was stirred at 50° C. under 3.0 bar of H2 for 12 h. The reaction mixture was filtered over Celite and the filtrate evaporated down to dryness. Redissolution in EtOAc, washing with 1N NaHCO3 and concentration gave the crude product which was directly used for the next step.

reactant | 1-benzyl-4-(2-trifluoromethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(C=CC=C1)OC(F)(F)F | C19H18F3NO
reactant | TFA | 5 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-(2-Trifluoromethoxy-phenyl)-piperidine | FC(OC1=C(C=CC=C1)C1CCNCC1)(F)F | C12H14F3NO
